US07968725B2
b) (6-Chloro-4-methyl-pyridin-2-yl)-(2-methyl-allyl)-(4-trifluoromethyl-phenyl)-amine
To a solution of (6-chloro-4-methyl-pyridin-2-yl)-(4-trifluoromethyl-phenyl)-amine (290 mg, 1.0 mmol) in THF (10 mL) was added NaH (60%, 80 mg, 2.0 mmol) and 1-bromo-3-methylpropene (150 mg, 1.1 mmol). The mixture was microwaved 20 minutes at 120° C. and concentrated. The residue was purified by chromatography on silica gel (10-30% CH2Cl2 in heptane) to give the product as a colorless oil (230 mg, 68%). 1H NMR (300 MHz, CDCl3) δ 7.58 (d, J=8.29 Hz, 2H), 7.34 (d, J=8.67 Hz, 2H), 6.59 (s, 1H), 6.45 (s, 1H), 4.81 (d, J=15.07 Hz, 2H), 4.55 (s, 2H), 2.18 (s, 3H), 1.76 (s, 3H). MS m/e 341.1 (M+H),

reactant | (6-chloro-4-methyl-pyridin-2-yl)-(4-trifluoromethyl-phenyl)-amine | 1.0 mmol, 290 mg | ClC1=CC(=CC(=N1)NC1=CC=C(C=C1)C(F)(F)F)C | C13H10ClF3N2
reactant | NaH | 2.0 mmol, 80 mg | [H-].[Na+]
reactant | 1-bromo-3-methylpropene | 1.1 mmol, 150 mg | BrC=CCC | C4H7Br
reactant | THF | 10 mL | C1CCOC1 | C4H8O
product | (6-Chloro-4-methyl-pyridin-2-yl)-(2-methyl-allyl)-(4-trifluoromethyl-phenyl)-amine | 230 mg, 68% | ClC1=CC(=CC(=N1)N(C1=CC=C(C=C1)C(F)(F)F)CC(=C)C)C | C17H16ClF3N2
